US08835428B2
Step 1: 3-{4-[3-(2-Fluoro-phenyl)ureido]-phenyl}-isoxazole-5-carboxylic acid ethyl ester
Ethyl 3-(4-aminophenyl)isoxazole-5-carboxylate (4 g) was dissolved in THF (80 ml). 2-Fluorophenyl isocyanate (2.83 g) was added and stirred at RT overnight. Reaction mixture was concentrated under reduced pressure and purified by silica gel column chromatography in 1:9 EtOAc: CHCl3 to get off white solid which was crystallized from CH2Cl2/Pet ether to yield 5 gm (78%) white solid. MS (ES+): m/z 370 (M+1); 1HNMR (DMSO-d6, 300 MHz) δ: 9.32 (s, 1H), 8.62 (s, 1H), 8.12 (m, 1H), 7.89 (d, 2H), 7.81 (s, 1H), 7.59 (d, 2H), 7.24 (m, 1H), 7.12 (m, 1H), 7.05 (m, 1H), 4.38 (q, 2H), 1.31 (t, 3H).

reactant | Ethyl 3-(4-aminophenyl)isoxazole-5-carboxylate | 4 g | NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)OCC | C12H12N2O3
reactant | 2-Fluorophenyl isocyanate | 2.83 g | FC1=C(C=CC=C1)N=C=O | C7H4FNO
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3-{4-[3-(2-Fluoro-phenyl)ureido]-phenyl}-isoxazole-5-carboxylic acid ethyl ester | 5 gm, 78% | C(C)OC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)F | C19H16FN3O4
